US07312359B2
C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride (0.5 gms, 1.41 mmole) and potassium cyanate (0.137 g, 1.69 mmol) added to to 30 mL stirring water, and the mixture was heated to 60° C. for five minutes. The reaction mixture was then cooled to room temperature, and the resulting white precipitate was collected by filtration, washed with cold water, and dried under vacuum to give 0.408 g of (R)-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-urea, M+H=363.

reactant | C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride | 1.41 mmole, 0.5 gms | Cl.FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CN
reactant | potassium cyanate | 1.69 mmol, 0.137 g | [O-]C#N.[K+]
solvent | water | O | H2O
product | (R)-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-urea | 0.408 g | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCC[C@H](C2=CC1)CNC(=O)N | C18H19FN2O3S
